US08633186B2
2-propylamino-6-nitrobenzonitrile
Prepared as in Example 90c from 2,6-dinitrobenzonitrile and propylamine 2-propylamino-6-nitrobenzonitrile (0.53 g, 86%). 1H NMR (400 MHz, DMSO-d6) δ 0.88 (t, J=7.2 Hz, 3H), 1.51-1.57 (m, 2H), 3.22 (q, J=5.6, J=6.4, 2H), 6.60-6.63 (m, NH), 7.22 (d, J=8.8 Hz, 1H), 7.40 (d, J=7.6 Hz, 1H), 7.58 (t, J=8.4 Hz, 1H).

reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | propylamine 2-propylamino-6-nitrobenzonitrile | 0.53 g | C(CC)NC1=C(C#N)C(=CC=C1)[N+](=O)[O-].C(CC)N
product | 2-propylamino-6-nitrobenzonitrile | C(CC)NC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C10H11N3O2
